* C:\Users\subha\OneDrive\Documents\GitHub\PMIC_Final_Project_Fall_Buck_Converter\Compensator.asc
E4 N001 0 N002 0 1.8
L3 N001 out 0.24µ Rser=32m
C2 out 0 20µ
E5 N002 0 N006 0 1
XX1 vdd N005 N007 0 N006 error_amplifier
V1 vdd 0 1.8
R3 N003 N005 100k
R4 N005 0 100k
V2 N007 0 0.8
C3 N004 N003 1Meg
L4 out N003 1Meg
V3 N004 0 AC 1

* block symbol definitions
.subckt error_amplifier VDDA VINN VINP GNDA VOUT
Q1 N005 N008 GNDA 0 2N3904
R1 N008 GNDA 150k
Q2 N001 N005 N008 0 2N3904
M1 N001 N001 VDDA VDDA CMOSP l=180n w=5u
R2 VDDA N005 150k
M11 N006 N001 VDDA VDDA CMOSP l=180n w=5u
M12 N006 N006 GNDA GNDA CMOSN l=180n w=1u
M2 N007 N006 GNDA GNDA CMOSN l=180n w=2u
M3 N002 N002 VDDA VDDA CMOSP l=360n w=2u
M4 N003 N002 VDDA VDDA CMOSP l=360n w=2u
M5 N002 VINN N007 GNDA CMOSN l=180n w=1u
M6 N003 VINP N007 GNDA CMOSN l=180n w=1u
M7 VOUT N003 VDDA VDDA CMOSP l=180n w=10u
M8 VOUT N006 GNDA GNDA CMOSN l=180n w=2u
C1 VOUT N004 8f
R3 N004 N003 19.569k
.include tsmc018.lib
.ends error_amplifier

.model NPN NPN
.model PNP PNP
.lib C:\Users\subha\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\subha\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.ac dec 50 100 1G
.op
.backanno
.end
